US04239681
19-Methoxyandrost-4-ene-3,17-dione is dissolved in methanol and the solution cooled to 0° C. Sodium borohydride is added over a period of fifteen minutes and stirring continued for an additional two hours. The solution is poured into water containing a few drops of acetic acid. The white precipitate which forms is collected by filtration, dried and crystallized from acetone to yield the desired 19-methoxy-androst-4-ene-3β,17β-diol.

reactant | 19-Methoxyandrost-4-ene-3,17-dione | COC[C@]12CCC(C=C1CC[C@H]1[C@@H]3CCC([C@@]3(C)CC[C@H]21)=O)=O | C20H28O3
reactant | Sodium borohydride | [BH4-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
catalyst | water | a few drops | O | H2O
product | 19-methoxy-androst-4-ene-3β,17β-diol | COC[C@]12CC[C@@H](C=C1CC[C@H]1[C@@H]3CC[C@@H]([C@@]3(C)CC[C@H]21)O)O | C20H32O3
